US04421766
Phenyl 2,3,3-triiodoacrylate
A solution of 0.3 ml of thionyl chloride in 2 ml of benzene was added dropwise to a mixture of 0.3 g of triiodoacrylic acid, 0.3 ml of pyridine and 3 ml of benzene. The mixture was then stirred at room temperature for 45 minutes, after which the solvent was distilled off under reduced pressure. 5 ml of benzene and 0.3 ml of pyridine were added to the resulting residue, and then 0.3 g of phenol was added, with ice-cooling, after which the mixture was stirred at room temperature for 2 hours. At the end of this time, the reaction mixture was poured into an ice-cooled dilute solution of hydrochloric acid and then extracted with diethyl ether. The extract was washed, in turn, with a saturated aqueous solution of sodium bicarbonate, water and then a saturated aqueous solution of sodium chloride. The resulting solution was dried over anhydrous sodium sulphate and then the solvent was distilled off under reduced pressure. The resulting residue was purified by column chromatography through silica gel eluted with a 100:12 by volume mixture of hexane and ethyl acetate, to give 0.18 g of the title compound, melting at 83°-84.5° C.

reactant | thionyl chloride | 0.3 ml | S(=O)(Cl)Cl | Cl2OS
reactant | triiodoacrylic acid | 0.3 g | IC(=C(C(=O)O)I)I | C3HI3O2
reactant | pyridine | 0.3 ml | N1=CC=CC=C1 | C5H5N
reactant | benzene | 2 ml | C1=CC=CC=C1 | C6H6
reactant | benzene | 3 ml | C1=CC=CC=C1 | C6H6
product | Phenyl 2,3,3-triiodoacrylate | 0.18 g | IC(C(=O)OC1=CC=CC=C1)=C(I)I | C9H5I3O2
